2142-06-27 06:35:00 Physician Resident Progress Note
Chief Complaint: Hematochezia
   24 Hour Events:
   Tagged red cell scan negative
   Last bloody BM at 10am [**6-26**]
   Access difficult, in for Power PICC today
   Received total 2U PRBC [**6-26**]
 NUCLEAR MEDICINE - At [**2142-6-26**] 03:00 PM
   Allergies:
   Lipitor (Oral) (Atorvastatin Calcium)
   muscle aching;
   Zocor (Oral) (Simvastatin)
   muscle aching;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2142-6-27**] 06:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36
C (96.8
   HR: 53 (53 - 131) bpm
   BP: 124/50(69) {96/48(62) - 139/82(85)} mmHg
   RR: 10 (7 - 21) insp/min
   SpO2: 95%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 53 Inch
                  Total In:
                                                                  2,782 mL
                                                                    283 mL
   PO:
                  TF:
   IVF:
                                                                    650 mL
   Blood products:
                                                                    467 mL
                                                                    283 mL
   Total out:
                                                                  1,730 mL
                                                                  1,100 mL
   Urine:
                                                                    800 mL
                                                                  1,100 mL
   NG:
   Stool:
                                                                    930 mL
   Drains:
   Balance:
                                                                  1,052 mL
                                                                   -817 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///27/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   286 K/uL
   10.8 g/dL
   90 mg/dL
   1.0 mg/dL
   27 mEq/L
   3.2 mEq/L
   19 mg/dL
   108 mEq/L
   140 mEq/L
   30.4 %
   8.2 K/uL
        [image002.jpg]
                             [**2142-6-24**]  10:46 AM
                             [**2142-6-24**]  04:33 PM
                             [**2142-6-24**]  10:08 PM
                             [**2142-6-25**]  04:51 AM
                             [**2142-6-25**]  01:04 PM
                             [**2142-6-25**]  06:03 PM
                             [**2142-6-26**]  05:01 AM
                             [**2142-6-26**]  12:32 PM
                             [**2142-6-26**]  09:35 PM
                             [**2142-6-27**]  03:42 AM
   WBC
   13.0
   12.7
   8.2
   Hct
   30.8
   31.6
   26.0
   27.1
   33.2
   27.6
   30
   24.3
   26.9
   30.4
   Plt
   [**Telephone/Fax (3) 3966**]
   Cr
   1.1
   1.0
   1.0
   TCO2
   25
   Glucose
   108
   114
   192
   90
   Other labs: PT / PTT / INR:13.4/18.4/1.1, Differential-Neuts:78.1 %,
   Lymph:17.6 %, Mono:2.9 %, Eos:1.2 %, Lactic Acid:0.8 mmol/L, Ca++:7.7
   mg/dL, Mg++:2.0 mg/dL, PO4:1.8 mg/dL
   Assessment and Plan
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB):
   Patient presented with LGIB in the setting of recently being started on
   Coumadin for atrial fibrillation. She underwent a colonoscopy which
   showed fresh and old blood in the colon. She then underwent a tagged
   RBC scan which was negative. The patient has not had any bloody stools
   for the past 24 hours and her hematocrit has remained stable.
   -          Hct [**Hospital1 **]
   -          Continue to hold Coumadin; will need to be restarted on
   Plavix and ASA 81mg tomorrow
   -          Advance diet to full liquids and then regular if able to
   tolerate
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE):  Patient has
   significant history with multiple stents. She has not had any chest
   pain during this admission.  She was on ASA and Plavix as an
   outpatient.
   -          Restart ASA and Plavix starting tommorow
 PERIPHERAL VASCULAR DISEASE (PVD) WITHOUT CRITICAL LIMB ISCHEMIA:
   Restart ASA and Plavix tomorrow.
 RENAL ARTERY STENOSIS (RAS): Restart Plavix and ASA tomorrow.
 ATRIAL FIBRILLATION (AFIB): Recently diagnosed after undergoing
   lobectomy for lung cancer. Her rate has been well controlled but she
   does have episodes where her heart rate does increase to mid 100
   -          Continue Amiodarone
   -          Hold Coumadin; talk to patient
s cardiologist (Dr. [**Last Name (STitle) 3979**]
   re: anticoagulation
   -          Patient may benefit from beta-[**Last Name (LF) 368**], [**First Name3 (LF) 178**] hold off for now
   given acute bleed
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE): Cr 1.0 today. Continue to monitor daily.
 CANCER (MALIGNANT NEOPLASM), LUNG: s/p lobectomy for lung cancer.
   Respiratory status remained stable during hospital stay.
 POLYMYALGIA  RHEUMATICA:  Continue Prednisone 10mg PO daily.
   ICU Care
   Nutrition:
   Glycemic Control:  Blood sugars well controlled.
   Lines:  PICC line, PIV
   20 Gauge - [**2142-6-26**] 12:00 PM
   Prophylaxis:
   DVT: Holding heparin SQ given acute bleed, ct pneumoboots
   Stress ulcer:  N/A
   VAP:  N/A
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: Call out to floor

2142-06-27 06:35:00 Physician Resident Progress Note
Chief Complaint: Hematochezia
   24 Hour Events:
   Tagged red cell scan negative
   Last bloody BM at 10am [**6-26**]
   Access difficult, in for Power PICC today
   Received total 2U PRBC [**6-26**]
 NUCLEAR MEDICINE - At [**2142-6-26**] 03:00 PM
   Allergies:
   Lipitor (Oral) (Atorvastatin Calcium)
   muscle aching;
   Zocor (Oral) (Simvastatin)
   muscle aching;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2142-6-27**] 06:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36
C (96.8
   HR: 53 (53 - 131) bpm
   BP: 124/50(69) {96/48(62) - 139/82(85)} mmHg
   RR: 10 (7 - 21) insp/min
   SpO2: 95%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 53 Inch
                  Total In:
                                                                  2,782 mL
                                                                    283 mL
   PO:
                  TF:
   IVF:
                                                                    650 mL
   Blood products:
                                                                    467 mL
                                                                    283 mL
   Total out:
                                                                  1,730 mL
                                                                  1,100 mL
   Urine:
                                                                    800 mL
                                                                  1,100 mL
   NG:
   Stool:
                                                                    930 mL
   Drains:
   Balance:
                                                                  1,052 mL
                                                                   -817 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///27/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   286 K/uL
   10.8 g/dL
   90 mg/dL
   1.0 mg/dL
   27 mEq/L
   3.2 mEq/L
   19 mg/dL
   108 mEq/L
   140 mEq/L
   30.4 %
   8.2 K/uL
        [image002.jpg]
                             [**2142-6-24**]  10:46 AM
                             [**2142-6-24**]  04:33 PM
                             [**2142-6-24**]  10:08 PM
                             [**2142-6-25**]  04:51 AM
                             [**2142-6-25**]  01:04 PM
                             [**2142-6-25**]  06:03 PM
                             [**2142-6-26**]  05:01 AM
                             [**2142-6-26**]  12:32 PM
                             [**2142-6-26**]  09:35 PM
                             [**2142-6-27**]  03:42 AM
   WBC
   13.0
   12.7
   8.2
   Hct
   30.8
   31.6
   26.0
   27.1
   33.2
   27.6
   30
   24.3
   26.9
   30.4
   Plt
   [**Telephone/Fax (3) 3966**]
   Cr
   1.1
   1.0
   1.0
   TCO2
   25
   Glucose
   108
   114
   192
   90
   Other labs: PT / PTT / INR:13.4/18.4/1.1, Differential-Neuts:78.1 %,
   Lymph:17.6 %, Mono:2.9 %, Eos:1.2 %, Lactic Acid:0.8 mmol/L, Ca++:7.7
   mg/dL, Mg++:2.0 mg/dL, PO4:1.8 mg/dL
   Assessment and Plan
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB):
   Patient
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
 PERIPHERAL VASCULAR DISEASE (PVD) WITHOUT CRITICAL LIMB ISCHEMIA
 RENAL ARTERY STENOSIS (RAS)
 ATRIAL FIBRILLATION (AFIB)
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE): Patient pres
 CANCER (MALIGNANT NEOPLASM), LUNG
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Polymyalgia Rheumatica
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2142-6-26**] 12:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2142-06-27 06:35:00 Physician Attending Progress Note
Chief Complaint: Hematochezia
   24 Hour Events:
   Tagged red cell scan negative
   Last bloody BM at 10am [**6-26**]
   Access difficult, in for Power PICC today
   Received total 2U PRBC [**6-26**]
 NUCLEAR MEDICINE - At [**2142-6-26**] 03:00 PM
   Allergies:
   Lipitor (Oral) (Atorvastatin Calcium)
   muscle aching;
   Zocor (Oral) (Simvastatin)
   muscle aching;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2142-6-27**] 06:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36
C (96.8
   HR: 53 (53 - 131) bpm
   BP: 124/50(69) {96/48(62) - 139/82(85)} mmHg
   RR: 10 (7 - 21) insp/min
   SpO2: 95%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 53 Inch
                  Total In:
                                                                  2,782 mL
                                                                    283 mL
   PO:
                  TF:
   IVF:
                                                                    650 mL
   Blood products:
                                                                    467 mL
                                                                    283 mL
   Total out:
                                                                  1,730 mL
                                                                  1,100 mL
   Urine:
                                                                    800 mL
                                                                  1,100 mL
   NG:
   Stool:
                                                                    930 mL
   Drains:
   Balance:
                                                                  1,052 mL
                                                                   -817 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///27/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   286 K/uL
   10.8 g/dL
   90 mg/dL
   1.0 mg/dL
   27 mEq/L
   3.2 mEq/L
   19 mg/dL
   108 mEq/L
   140 mEq/L
   30.4 %
   8.2 K/uL
        [image002.jpg]
                             [**2142-6-24**]  10:46 AM
                             [**2142-6-24**]  04:33 PM
                             [**2142-6-24**]  10:08 PM
                             [**2142-6-25**]  04:51 AM
                             [**2142-6-25**]  01:04 PM
                             [**2142-6-25**]  06:03 PM
                             [**2142-6-26**]  05:01 AM
                             [**2142-6-26**]  12:32 PM
                             [**2142-6-26**]  09:35 PM
                             [**2142-6-27**]  03:42 AM
   WBC
   13.0
   12.7
   8.2
   Hct
   30.8
   31.6
   26.0
   27.1
   33.2
   27.6
   30
   24.3
   26.9
   30.4
   Plt
   [**Telephone/Fax (3) 3966**]
   Cr
   1.1
   1.0
   1.0
   TCO2
   25
   Glucose
   108
   114
   192
   90
   Other labs: PT / PTT / INR:13.4/18.4/1.1, Differential-Neuts:78.1 %,
   Lymph:17.6 %, Mono:2.9 %, Eos:1.2 %, Lactic Acid:0.8 mmol/L, Ca++:7.7
   mg/dL, Mg++:2.0 mg/dL, PO4:1.8 mg/dL
   Assessment and Plan
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB):
   Patient presented with LGIB in the setting of recently being started on
   Coumadin for atrial fibrillation. She underwent a colonoscopy which
   showed fresh and old blood in the colon. She then underwent a tagged
   RBC scan which was negative. The patient has not had any bloody stools
   for the past 24 hours and her hematocrit has remained stable.
   -          Hct [**Hospital1 **]
   -          Continue to hold Coumadin; will need to be restarted on
   Plavix and ASA 81mg tomorrow
   -          Advance diet to full liquids and then regular if able to
   tolerate
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE):  Patient has
   significant history with multiple stents. She has not had any chest
   pain during this admission.  She was on ASA and Plavix as an
   outpatient.
   -          Restart ASA and Plavix starting tommorow
 PERIPHERAL VASCULAR DISEASE (PVD) WITHOUT CRITICAL LIMB ISCHEMIA:
   Restart ASA and Plavix tomorrow.
 RENAL ARTERY STENOSIS (RAS): Restart Plavix and ASA tomorrow.
 ATRIAL FIBRILLATION (AFIB): Recently diagnosed after undergoing
   lobectomy for lung cancer. Her rate has been well controlled but she
   does have episodes where her heart rate does increase to mid 100
   -          Continue Amiodarone
   -          Hold Coumadin; talk to patient
s cardiologist (Dr. [**Last Name (STitle) 3979**]
   re: anticoagulation
   -          Patient may benefit from beta-[**Last Name (LF) 368**], [**First Name3 (LF) 178**] hold off for now
   given acute bleed
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE): Cr 1.0 today. Continue to monitor daily.
 CANCER (MALIGNANT NEOPLASM), LUNG: s/p lobectomy for lung cancer.
   Respiratory status remained stable during hospital stay.
 POLYMYALGIA  RHEUMATICA:  Continue Prednisone 10mg PO daily.
   ICU Care
   Nutrition:
   Glycemic Control:  Blood sugars well controlled.
   Lines:  PICC line, PIV
   20 Gauge - [**2142-6-26**] 12:00 PM
   Prophylaxis:
   DVT: Holding heparin SQ given acute bleed, ct pneumoboots
   Stress ulcer:  N/A
   VAP:  N/A
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: Call out to floor, total time 35 minutes

2142-06-27 06:35:00 Physician Resident Progress Note
Chief Complaint: Hematochezia
   24 Hour Events:
   Tagged red cell scan negative
   Last bloody BM at 10am [**6-26**]
   Access difficult, in for Power PICC today
   Received total 2U PRBC [**6-26**]
 NUCLEAR MEDICINE - At [**2142-6-26**] 03:00 PM
   Allergies:
   Lipitor (Oral) (Atorvastatin Calcium)
   muscle aching;
   Zocor (Oral) (Simvastatin)
   muscle aching;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2142-6-27**] 06:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.5
C (97.7
   Tcurrent: 36
C (96.8
   HR: 53 (53 - 131) bpm
   BP: 124/50(69) {96/48(62) - 139/82(85)} mmHg
   RR: 10 (7 - 21) insp/min
   SpO2: 95%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 53 Inch
                  Total In:
                                                                  2,782 mL
                                                                    283 mL
   PO:
                  TF:
   IVF:
                                                                    650 mL
   Blood products:
                                                                    467 mL
                                                                    283 mL
   Total out:
                                                                  1,730 mL
                                                                  1,100 mL
   Urine:
                                                                    800 mL
                                                                  1,100 mL
   NG:
   Stool:
                                                                    930 mL
   Drains:
   Balance:
                                                                  1,052 mL
                                                                   -817 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 95%
   ABG: ///27/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   286 K/uL
   10.8 g/dL
   90 mg/dL
   1.0 mg/dL
   27 mEq/L
   3.2 mEq/L
   19 mg/dL
   108 mEq/L
   140 mEq/L
   30.4 %
   8.2 K/uL
        [image002.jpg]
                             [**2142-6-24**]  10:46 AM
                             [**2142-6-24**]  04:33 PM
                             [**2142-6-24**]  10:08 PM
                             [**2142-6-25**]  04:51 AM
                             [**2142-6-25**]  01:04 PM
                             [**2142-6-25**]  06:03 PM
                             [**2142-6-26**]  05:01 AM
                             [**2142-6-26**]  12:32 PM
                             [**2142-6-26**]  09:35 PM
                             [**2142-6-27**]  03:42 AM
   WBC
   13.0
   12.7
   8.2
   Hct
   30.8
   31.6
   26.0
   27.1
   33.2
   27.6
   30
   24.3
   26.9
   30.4
   Plt
   [**Telephone/Fax (3) 3966**]
   Cr
   1.1
   1.0
   1.0
   TCO2
   25
   Glucose
   108
   114
   192
   90
   Other labs: PT / PTT / INR:13.4/18.4/1.1, Differential-Neuts:78.1 %,
   Lymph:17.6 %, Mono:2.9 %, Eos:1.2 %, Lactic Acid:0.8 mmol/L, Ca++:7.7
   mg/dL, Mg++:2.0 mg/dL, PO4:1.8 mg/dL
   Assessment and Plan
 GASTROINTESTINAL BLEED, LOWER (HEMATOCHEZIA, BRBPR, GI BLEED, GIB)
 CORONARY ARTERY DISEASE (CAD, ISCHEMIC HEART DISEASE)
 PERIPHERAL VASCULAR DISEASE (PVD) WITHOUT CRITICAL LIMB ISCHEMIA
 RENAL ARTERY STENOSIS (RAS)
 ATRIAL FIBRILLATION (AFIB)
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 CANCER (MALIGNANT NEOPLASM), LUNG
 [**Last Name 121**] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Polymyalgia Rheumatica
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2142-6-26**] 12:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: